US08748632B2
BBr3 (0.54 g, 2 mmol) was added dropwise to a solution of 2-cyclopentyl-6-methoxybenzo[d]isothiazol-3(2H)-one (0.250 g, 1 mmol) in anhydrous benzene (20 mL) at 0° C. The mixture was gradually warmed to room temperature and then heated at 80° C. for 30 min. The reaction mixture was then cooled to room temperature and carefully quenched with H2O (20 mL). The resulting mixture was then heated to reflux for an hour and filtered; the precipitate was washed with H2O and dried under vacuum to give the crude product. The material was purified by flash chromatography (silica gel, CHCl3: CH3OH, 9:1) to afford (0.200 g, 85%) of 2-cyclopentyl-6-hydroxybenzo[d]isothiazol-3(2H)-one as a colorless solid. 1H NMR (300 MHz, DMSO-d6): δ 10.36 (s, 1H), 7.60 (d, 1H, J=8.5 Hz), 7.20 (s, 1H), 6.80 (d, 1H, J=8.6 Hz), 4.84-4.81 (m, 1H), 2.12-1.98 (m, 2H), 1.75-1.60 (m, 6H). LC-MS (ESI) Calcd for C12H13NO2S [M+H]+: 236.0667. Found: 235.95.

reactant | BBr3 | 2 mmol, 0.54 g | B(Br)(Br)Br | BBr3
reactant | 2-cyclopentyl-6-methoxybenzo[d]isothiazol-3(2H)-one | 1 mmol, 0.250 g | C1(CCCC1)N1SC2=C(C1=O)C=CC(=C2)OC | C13H15NO2S
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 2-cyclopentyl-6-hydroxybenzo[d]isothiazol-3(2H)-one | 0.200 g, 85% | C1(CCCC1)N1SC2=C(C1=O)C=CC(=C2)O | C12H13NO2S
